US07087750B2
4-(1-Piperazinyl)-1-(2-methylbenzenesulfonyl)-1H-indole (Scheme 1)
The title compound was prepared from 4-bromo-1-(2-methyl-benzenesulfonyl)-1H-indole and piperazine according to Method 1 to give 25 mg (12%) of a white solid: 1HNMR (CD3OD) δ 7.91–6.79 (m, 9H), 3.49–3.30 (m, 8H), 2.48 (s, 3H); MS (ESI) 356.1 (M+H)+; Purity (HPLC) >95%.

reactant | 4-bromo-1-(2-methyl-benzenesulfonyl)-1H-indole | BrC1=C2C=CN(C2=CC=C1)S(=O)(=O)C1=C(C=CC=C1)C | C15H12BrNO2S
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 4-(1-Piperazinyl)-1-(2-methylbenzenesulfonyl)-1H-indole | N1(CCNCC1)C1=C2C=CN(C2=CC=C1)S(=O)(=O)C1=C(C=CC=C1)C | C19H21N3O2S
